US05985909
(e) 1-(t-Butyloxycarbonyl)-3,3-di(methoxycarbonyl)-6-nitroindoline
A solution of 3,3-di(methoxycarbonyl)-6-nitroindoline (3.04 g, 10.8 mmol), di-t-butyldicarbonate (3.55 g, 16.3 mmol) and 4-dimethylaminopyridine (70 mg, 0.5 mmol) in THF (100 mL) was stirred at 20° C. for 2 h then at reflux for 10 min (until tlc analysis showed complete conversion). The THF was evaporated and the residue purified by dry column chromatography, eluting with EtOAc/petroleum ether (1:4), to give title compound as a pale yellow foam (4.10 g, 99%). A sample was crystallised from MeOH, giving very pale yellow needles, mp 131.5-132.5° C. 1H NMR (CDCl3) δ8.70, 8.34 (2 x br s, 1H, H-7), 7.89 (dd, J=8.5, 2.2 Hz, 1H, H-5), 7.66 (d, J=8.5 Hz, 1H, H-4), 4.59 (s, 2H, NCH2), 3.83 (s, 6H, CO2Me), 1.60 (s, 9H, t-Bu); 13C NMR δ168.1 (CO2Me), 151.2, 149.7 (C-6,8,9, NCO2, two peaks not observed), 127.4, 117.6, 110.0 (C-4,5,7), 82.5 (OCMe3), 61 (br, C-3), 54.6 (C-2), 53.9 (OMe), 28.3 (C(CH3)3). Anal. Calculated for C17H20N2O8 : C, 53.7; H, 5.3; N, 7.4. Found: C, 53.6; H, 5.4; N, 7.5%.

reactant | 3,3-di(methoxycarbonyl)-6-nitroindoline | 10.8 mmol, 3.04 g | COC(=O)C1(CNC2=CC(=CC=C12)[N+](=O)[O-])C(=O)OC | C12H12N2O6
reactant | di-t-butyldicarbonate | 16.3 mmol, 3.55 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 0.5 mmol, 70 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-(t-Butyloxycarbonyl)-3,3-di(methoxycarbonyl)-6-nitroindoline | 4.10 g, 99% | C(C)(C)(C)OC(=O)N1CC(C2=CC=C(C=C12)[N+](=O)[O-])(C(=O)OC)C(=O)OC | C17H20N2O8
